US05153226
(S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[[(4-methylphenyl)sulfonyl]amino]benzenepropanamide
To a solution of 0.61 g (1.88 mmol) (2,6-diisopropylaniline)-L-phenylalanine and 0.3 mL triethylamine in 20 mL dichloromethane at 0° C. was added 0.38 g (2.0 mmol) tosyl chloride. After 30 minutes the cool bath was removed and the reaction was stirred for 16 hours. The reaction mixture was taken up in dichloromethane and washed successively with dilute aqueous citric acid and water. The organic layer was dried over magnesium sulfate, filtered, and evaporated. Obtained was a white powder that was recrystallized from diethyl ether. Yield: 0.75 g, mp 183°-184° C.

reactant | (2,6-diisopropylaniline)-L-phenylalanine | 1.88 mmol, 0.61 g | N[C@@H](CC1=CC=CC=C1)C(=O)O.C(C)(C)C1=C(N)C(=CC=C1)C(C)C
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 2.0 mmol, 0.38 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[[(4-methylphenyl)sulfonyl]amino]benzenepropanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC([C@H](CC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C28H34N2O3S
